US06605617B2
6-Amino-2-(2-morpholin-4-ylethoxy)benzenecarbonitrile
4-(Hydroxyethyl)morpholine (1.02 eq) was added to NaH (1.2 eq) in NMP. After 10 minutes, 6-amino-2-fluorobenzenecarbonitrile (1.0 eq) was added in NMP. The resulting mixture was heated at 100° C. for 1 hour. The mixture was then cooled and poured into H2O. The aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo to a yield a brown gum. The crude material was purified by silica gel chromatography (5:1:95 MeOH:Et3N:EtOAc) to give the desired product. LC/MS m/z 248.3 (MH+), Rf 1.26 minutes.

reactant | 4-(Hydroxyethyl)morpholine | 1.02 eq | OCCN1CCOCC1 | C6H13NO2
reactant | NaH | 1.2 eq | [H-].[Na+]
reactant | 6-amino-2-fluorobenzenecarbonitrile | 1.0 eq | NC1=CC=CC(=C1C#N)F | C7H5FN2
reactant | H2O | O | H2O
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 6-Amino-2-(2-morpholin-4-ylethoxy)benzenecarbonitrile | NC1=CC=CC(=C1C#N)OCCN1CCOCC1 | C13H17N3O2
